US04954164
Synthesis of N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-1,3-dimethyl-5-dimethylsulfamoylpyrazole-4-sulfonamide (Compound No. 596):
From the compound as prepared above, following the procedures of Examples 1 and 2, there was synthesized 1,3-dimethyl-5-dimethylsulfamoylpyrazole-4-sulfonyl isocyanate, which was in turn allowed to react with 2-amino-4-methoxy-6-methylpyrimidine to obtain the title compound. m.p. 215°-217° C.,

reactant | 1,3-dimethyl-5-dimethylsulfamoylpyrazole-4-sulfonyl isocyanate | CN1N=C(C(=C1S(N(C)C)(=O)=O)S(=O)(=O)N=C=O)C | C8H12N4O5S2
reactant | 2-amino-4-methoxy-6-methylpyrimidine | NC1=NC(=CC(=N1)OC)C | C6H9N3O
product | N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-1,3-dimethyl-5-dimethylsulfamoylpyrazole-4-sulfonamide | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1C(=NN(C1S(N(C)C)(=O)=O)C)C | C14H21N7O6S2
